US05808149
Then, the first distillation of Example 14 was repeated, thereby to obtain 79.9 kg of (C8F17SO2)2O which is colorless and transparent. By chemical analysis, this first distillate was found to have a purity of 91 wt % and contain 5 wt % of C8F17 SO2.OC8F17, 2 wt % of C7F15SO2.OC7 F15, up to 0.5 wt % of C6F13SO2.OC6F13, 2 wt % of C8F17SO3H, up to 0.5 wt % of C7F15 SO3H, 620 wt ppm of phosphorus, and 4,100 wt ppm of free fluorine. The amount of (C8F17SO2)2O produced by the reaction was 72.7 kg, and the yield was 37%, based on the amount of C8 F17SO3H.

reactant | C8F17SO3H | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)O | C8HF17O3S
reactant | phosphorus | [P] | P
reactant | fluorine | FF | F2
product | (C8F17SO2)2O | yield was 37% | O(S(=O)(=O)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C16F34O5S2
